US08334295B2
4-[6-(3-Cyano-5-methyl-benzoyl)-5-isopropyl-2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-yl]-but-2-enoic acid amide (Compound 88):
In a 5 mL microwave reaction tube, 4-[6-(3-cyano-5-methyl-benzoyl)-5-isopropyl-2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-yl]-but-2-enoic acid ethyl ester (69 mg, 0.168 mmol) and 0.5 mL MeOH was added, followed by 0.7 mL NH4OH (30% in water, excess). The reaction mixture was heated in the microwave at 120° C. for 30 minutes. The reaction mixture concentrated down and purified by reverse phase prep HPLC (MeCN/water) to give a white powder (4.2 mg, 6.6%). 1H NMR (300 MHz, CD3OD): δ 8.8 (d, 1H), 7.64 (m, 2H), 7.4-7.28 (m, 2H), 3.19 (dd, 1H), 2.52 (m, 1H), 0.95 (d, 3H), 0.65 (dd, 3H). LC-MS shows 381.0 (M+1).

reactant | 4-[6-(3-cyano-5-methyl-benzoyl)-5-isopropyl-2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-yl]-but-2-enoic acid ethyl ester | 0.168 mmol, 69 mg | C(C)OC(C=CCN1C(NC(C(=C1C(C1=CC(=CC(=C1)C)C#N)=O)C(C)C)=O)=O)=O | C22H23N3O5
reactant | NH4OH | 0.7 mL | [NH4+].[OH-]
solvent | MeOH | 0.5 mL | CO | CH4O
product | 4-[6-(3-Cyano-5-methyl-benzoyl)-5-isopropyl-2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-yl]-but-2-enoic acid amide | 4.2 mg, 6.6% | C(#N)C=1C=C(C(=O)C2=C(C(NC(N2CC=CC(=O)N)=O)=O)C(C)C)C=C(C1)C | C20H20N4O4
